US07977362B2
A solution of cis-ethyl 2-(benzylamino)cyclopentanecarboxylate (2.99 g, 12.1 mmol), prepared according to Bartoli, G. et al., J. Org. Chem., 59:5328-5335, was hydrogenated along with 500 mg 10% palladium on carbon in 20 mL ethanol at 45 psi for 22 h. The reaction was filtered through a 45μ filter and concentrated to give cis-ethyl 2-aminocyclopentanecarboxylate (1.75 g, 92%). 1H NMR (400 MHz, CDCl3) δ ppm 4.14 (2H, q, J=7.13 Hz), 3.53-3.62 (1H, m), 2.75 (1H, td, J=8.37, 6.67 Hz), 1.93-2.11 (1H, m), 1.77-1.92 (3H, m), 1.43-1.62 (2H, m), 1.35 (2H, s), 1.25 (3H, t, J=7.18 Hz). MS [M+H]+=158.24.

reactant | cis-ethyl 2-(benzylamino)cyclopentanecarboxylate | 12.1 mmol, 2.99 g | C(C1=CC=CC=C1)N[C@@H]1[C@@H](CCC1)C(=O)OCC | C15H21NO2
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | cis-ethyl 2-aminocyclopentanecarboxylate | 1.75 g, 92% | N[C@@H]1[C@@H](CCC1)C(=O)OCC | C8H15NO2
